US06582351B1
To a solution of 4-fluoro-3-nitrobenzotrifluoride (4 g) in N,N-dimethylformamide (40 mL) was added trans-4-aminocyclohexanol (6.61 g), and the mixture was stirred at 90° C. for 4 hours under nitrogen atmosphere. After cooling to room temperature, water was added to the mixture. The resulting precipitate was collected by filtration and washed with water to give 4-(trans-4-hydroxycyclohexylamino)-3-nitrobenzotrifluoride (5.4 g) as a yellow solid.

reactant | 4-fluoro-3-nitrobenzotrifluoride | 4 g | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | trans-4-aminocyclohexanol | 6.61 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 4-(trans-4-hydroxycyclohexylamino)-3-nitrobenzotrifluoride | 5.4 g | O[C@@H]1CC[C@H](CC1)NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C13H15F3N2O3
